US07851469B2
Morpholin-4-yl-{4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-phenyl}-methanone
As described for Example 10, 4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester (70 mg, 0.17 mmol) was converted, using morpholine instead of cyclopropanemethylamine, to the title compound (32 mg, 40%) which was obtained as a white foam. MS: m/e=469.1 [M+H]+.

reactant | 4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester | 0.17 mmol, 70 mg | COC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C21H14F3N3O3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | Morpholin-4-yl-{4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-phenyl}-methanone | 32 mg, 40% | N1(CCOCC1)C(=O)C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1 | C24H19F3N4O3
